US05241027
Octadecyl parachlorobenzenesulfonate (19.1 g) was added to 6.17 g of 2-methylbenzoselenazole, and the mixture was heated at 130° C. for 6 hours. The crystals yielded by the reaction were washed with ether and then recrystallized from n-propanol. Drying of the crystals gave 12.8 g of 2-methyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate (yield 65%).

reactant | Octadecyl parachlorobenzenesulfonate | 19.1 g | ClC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCCCC | C24H41ClO3S
reactant | 2-methylbenzoselenazole | 6.17 g | CC=1[Se]C2=C(N1)C=CC=C2 | C8H7NSe
product | 2-methyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate | 12.8 g, yield 65% | ClC1=CC=C(C=C1)S(=O)(=O)[O-].CC=1[Se]C2=C([N+]1CCCCCCCCCCCCCCCCCC)C=CC=C2 | InChI=1S/C26H44NSe.C6H5ClO3S/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-27-24(2)28-26-22-19-18-21-25(26)27;7-5-1-3-6(4-2-5)11(8,9)10/h18-19,21-22H,3-17,20,23H2,1-2H3;1-4H,(H,8,9,10)/q+1;/p-1
